data/polar.json
{"reaction_name": "Chichibabin amination", "rsmi": "[n:1]1[c:2]([H:8])[cH:3][cH:4][cH:5][cH:6]1.[NH2-:7].[N:9]([H:10])([H:11])[H:12]>>[n:1]1[c:2]([NH2:7])[cH:3][cH:4][cH:5][cH:6]1.[H:8][H:10].[N-:9]([H:11])[H:12]", "epd": [["LP-/Sigma+", [7], [2, 7]], ["Sigma-/Sigma+", [2, 8], [8, 10]], ["Sigma-/LP+", [9, 10], [9]]]}
{"reaction_name": "Hemiacetal proton relay", "rsmi": "[CH3:1][CH:7]([OH+:5][H:8])[O:6][CH3:3].[OH:2][CH3:4]>>[CH3:1][CH:7]([OH:5])[O:6][CH3:3].[OH+:2]([CH3:4])[H:8]", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [5, 8], [5]]]}
{"reaction_name": "Cyclopropylcarbinyl fragmentation", "rsmi": "[CH:1]1([H:6])[CH2:2][C:3]1([CH3:4])[O-:5]>>[CH-:1]([CH2:2][H:6])[C:3]([CH3:4])=[O:5]", "epd": [["LP-/Pi+", [5], [3, 5]], ["Sigma-/Sigma+", [2, 3], [2, 6]], ["Sigma-/LP+", [1, 6], [1]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:3]1([Cl:16])=[C:4]([Cl:17])[C:6](=[O:9])[C:13]([C:21]#[N:24])=[C:14]([C:22]#[N:25])[C:5]1=[O:8].[cH:1]1[c:15]2[cH:12][cH:23][c:19]([S-:7])[cH:11][c:20]2[cH:10][cH:2][cH:18]1>>[cH:1]1[c:15]2[cH:12][cH:23][c:19]([S:7][C:13]3([C:21]#[N:24])[C:6](=[O:9])[C:4]([Cl:17])=[C:3]([Cl:16])[C:5]([O-:8])=[C:14]3[C:22]#[N:25])[cH:11][c:20]2[cH:10][cH:2][cH:18]1", "epd": [["LP-/Sigma+", [7], [7, 13]], ["Pi-/Pi+", [13, 14], [14, 5]], ["Pi-/LP+", [5, 8], [8]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH:5]1([C:7](=[O:21])[O:35][CH3:9])[CH2:10][CH2:26][CH2:24][N:32]1[C:25]1=[CH:15][CH2:6][CH2:31][CH2:18][CH2:8]1.[O:1]=[S:23](=[O:2])([N:20]([F:19])[S:22](=[O:3])(=[O:4])[c:33]1[cH:11][cH:27][cH:16][cH:30][cH:14]1)[c:34]1[cH:12][cH:28][cH:17][cH:29][cH:13]1>>[CH:5]1([C:7](=[O:21])[O:35][CH3:9])[CH2:10][CH2:26][CH2:24][N+:32]1=[C:25]1[CH2:8][CH2:18][CH2:31][CH2:6][CH:15]1[F:19].[O:1]=[S:23](=[O:2])([N-:20][S:22](=[O:3])(=[O:4])[c:33]1[cH:11][cH:27][cH:16][cH:30][cH:14]1)[c:34]1[cH:12][cH:28][cH:17][cH:29][cH:13]1", "epd": [["LP-/Pi+", [32], [25, 32]], ["Pi-/Sigma+", [15, 25], [15, 19]], ["Sigma-/LP+", [19, 20], [20]]]}
{"reaction_name": "Orthoester hydrolysis", "rsmi": "[O:1]([C:4]([O:2][CH3:6])([O:3][CH3:7])[CH3:9])[CH3:5].[O:8]([H:10])[H:11]>>[O:1]([C:4](=[O:8])[CH3:9])[CH3:5].[O:2]([CH3:6])[H:10].[O:3]([CH3:7])[H:11]", "epd": [["LP-/Sigma+", [8], [4, 8]], ["Sigma-/LP+", [2, 4], [2]], ["LP-/Sigma+", [2], [2, 10]], ["Sigma-/LP+", [8, 10], [8]], ["LP-/Pi+", [8], [4, 8]], ["Sigma-/LP+", [3, 4], [3]], ["LP-/Sigma+", [3], [3, 11]], ["Sigma-/LP+", [8, 11], [8]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:6][O:8][c:16]1[cH:33][cH:21][c:20]([CH:29]=[C:28]2[CH:30]=[C:17]([Br:25])[C:19](=[O:24])[C:18]([Br:26])=[CH:31]2)[cH:22][cH:34]1.[Li+:14].[c:1]1([CH3:32])[o:15][c:5]([B-:23]23[O:2][CH2:11][C:9]([CH3:7])([CH2:12][O:3]2)[CH2:13][O:4]3)[cH:10][cH:27]1>>[Li+:14].[O:2]1[CH2:11][C:9]2([CH3:7])[CH2:12][O:3][B:23]1[O:4][CH2:13]2.[c:1]1([CH3:32])[o:15][c:5]([CH:29]([c:20]2[cH:21][cH:33][c:16]([O:8][CH3:6])[cH:34][cH:22]2)[c:28]2[cH:30][c:17]([Br:25])[c:19]([O-:24])[c:18]([Br:26])[cH:31]2)[cH:10][cH:27]1", "epd": [["Sigma-/Sigma+", [5, 23], [5, 29]], ["Pi-/Pi+", [29, 28], [28, 30]], ["Pi-/Pi+", [30, 17], [17, 19]], ["Pi-/LP+", [19, 24], [24]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:6]([cH:20][cH:18][cH:30][cH:11]1)-[c:7]1[c:2]([cH:12][cH:31][cH:19][cH:21]1)[N+:29]2=[CH:3][CH3:25].[cH:4]1[c:26]([C:22](=[C:8]2[N:23]([CH3:9])[c:27]3[cH:17][cH:15][cH:14][cH:16][c:28]3[N:24]2[CH3:10])[O:35][CH3:34])[cH:5][cH:33][cH:13][cH:32]1>>[c:1]12[c:6]([c:7]3[c:2]([cH:12][cH:31][cH:19][cH:21]3)[n:29]1[CH:3]([C:22]([c:8]1[n+:23]([CH3:9])[c:27]3[cH:17][cH:15][cH:14][cH:16][c:28]3[n:24]1[CH3:10])([c:26]1[cH:4][cH:32][cH:13][cH:33][cH:5]1)[O:35][CH3:34])[CH3:25])[cH:20][cH:18][cH:30][cH:11]2", "epd": [["LP-/Pi+", [23], [8, 23]], ["Pi-/Sigma+", [22, 8], [22, 3]], ["Pi-/LP+", [3, 29], [29]]]}
{"reaction_name": "Alkynyl sulfone substitution", "rsmi": "[O-:1][CH3:5].[O:2]=[S:6](=[O:3])([CH3:7])[C:8]#[C:4][Cl:9]>>[Cl-:9].[O:1]([C:4]#[C:8][S:6](=[O:2])(=[O:3])[CH3:7])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 9], [9]]]}
{"reaction_name": "Episulfonium ion formation", "rsmi": "[S:1]([CH2:2][CH2:3][Cl:4])[CH3:5]>>[Cl-:4].[S+:1]1([CH3:5])[CH2:2][CH2:3]1", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [3, 4], [4]]]}
{"reaction_name": "Urea hydrolysis", "rsmi": "[NH2:1][C:5]([NH2:2])=[O:3].[O-:4][H:6]>>[NH2:1][C:5](=[O:3])[O-:4].[NH2:2][H:6]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Pi+", [3], [3, 5]], ["Sigma-/LP+", [2, 5], [2]], ["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [4, 6], [4]]]}
